US04329347
6-[4-(4-Acetaminophenyl-mercapto)-butoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 1 from 6-(4-bromo-butoxy)-3,4-dihydro-carbostyril and 4-acetamino-thiophenol.

reactant | 6-(4-bromo-butoxy)-3,4-dihydro-carbostyril | BrCCCCOC=1C=C2CCC(NC2=CC1)=O | C13H16BrNO2
reactant | 4-acetamino-thiophenol | N(C(=O)C)C1=CC=C(C=C1)S | C8H9NOS
product | 6-[4-(4-Acetaminophenyl-mercapto)-butoxy]-3,4-dihydro-carbostyril | N(C(=O)C)C1=CC=C(C=C1)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C21H24N2O3S
